Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
back and pelvic pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  Ms ___ is a pleasant ___
___ Speaking woman with anxiety, HLD, recent diagnosis of
ovarian cancer with metastases to the liver who presents for
chemotherapy treatment as outside hospital does not take her
insurance.  History obtained from patient and ___ notes as I was
unable to log into ___ pt gateway overnight. The pt has had
several months of lower back pain and rectal pain for which she
traveled to ___ to try traditional ___ therapies. On
___ she had an MRI which showed disc bulging but also
retroperitoneal lymphadenopathy. A CT abdomen pelvis was
performed which showed multiple nodules in the liver and diffuse
intra-abdominal lymphadenopathy with concern for malignancy. She
returned to ___ for further workup and treatment and 
presented
to ___ a week ago. At that time, she had a 10
pound weight loss over the past 3 months and associated anorexia
with some mild night sweats. At ___, she was found to be
hepatitis B virus immune, hepatitis C virus negative and 
syphilis
negative. Her stools were guaiac negative. A CT angiogram of her
chest showed no evidence of metastases. She had an ___ guided
liver biopsy in ___. she also went under flexible
sigmoidoscopy which showed areas of nodular mucosa with
superficial erosions in the rectosigmoid colon which were
biopsied. On ___ she had in a transvaginal ultrasound
which showed a mass posterior to the left adnexa. From ___
- ___ she was treated with ivermectin for presumed
strongyloides. The final pathology report of the liver biopsy 
was
pending at her discharge but preliminary read confirmed masses
PAX 8 and CA 125+ with morphology consistent with ovarian CA.

In the ___, initial vitals were: ___ 153/92 16 97% RA.  She
had mild back pain which was treated with oxycodone. Labs were
unremarkable except for leukocytosis to 12.  Blood and urine cxs
sent.  Pt was admitted for pain control evaluation for 
initiation
of inpatient chemotherapy.  

On the floor, pt states that she has ongoing pain which is ___
and primarily in rectum and low back.  She has been taking 2.5
oxycodone q 4 hrs for this.   Last BM yesterday morning.  
Passing
gas.   +tenesmus. 

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats. Denies headache, sinus
tenderness, rhinorrhea or congestion. Denies cough, shortness of
breath. Denies chest pain or tightness, palpitations. Denies
nausea, vomiting, diarrhea, constipation or abdominal pain. No
recent change in bowel or bladder habits. No dysuria. Denies
arthralgias or myalgias.  Full 10 pt ROS otherwise negative.
 
Past Medical History:
-Metastatic ovarian cancer (to liver) - diagnosed at ___ in 
___
-anxiety
-hyperlipidemia
 
Social History:
___
Family History:
HTN, mother with colon ca.  Father with
intestinal and pancreatic cancer.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
Vitals: 98.5 PO127 / 84 R ___
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi
Abdomen: Soft, mild ttp in epigastrium, non-distended, bowel
sounds present, no organomegaly, no rebound or guarding
Rectal: no abnormalities
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.
MSK: ttp of paraspinous musculature in lower back

DISCHARGE PHYSICAL EXAM
=======================

Vitals: 98.1 ___
Gen: Well appearing, no distress
HEENT: Moist mucous membranes, no exudates
Lungs: CTAB
CV: Regular, no murmurs
Abdomen: Soft, mild tenderness in the periumbilical area to deep
palpation only, no guarding
Ext: No edema
neuro: Strength ___ in UEs and ___, pupils 4->2mm
bilaterally, CNs normal, gait intact
MSK: No ttp of back
Skin: no rash
 
Pertinent Results:
PERTINENT LABS
===============

___ 06:11PM BLOOD WBC-12.0* RBC-4.50 Hgb-13.4 Hct-41.2 
MCV-92 MCH-29.8 MCHC-32.5 RDW-12.1 RDWSD-40.7 Plt ___
___ 06:11PM BLOOD Neuts-65.0 ___ Monos-8.8 Eos-1.7 
Baso-0.7 Im ___ AbsNeut-7.80* AbsLymp-2.76 AbsMono-1.06* 
AbsEos-0.20 AbsBaso-0.08
___ 07:35AM BLOOD WBC-9.3 RBC-4.52 Hgb-13.4 Hct-41.7 MCV-92 
MCH-29.6 MCHC-32.1 RDW-12.1 RDWSD-41.1 Plt ___
___ 06:11PM BLOOD ___ PTT-31.1 ___
___ 07:35AM BLOOD Glucose-102* UreaN-8 Creat-0.6 Na-139 
K-4.6 Cl-100 HCO3-28 AnGap-11
___ 06:11PM BLOOD ALT-17 AST-20 AlkPhos-83 TotBili-0.2
___ 07:35AM BLOOD Calcium-10.0 Phos-4.2 Mg-2.3
___ 06:11PM BLOOD Albumin-4.2 Calcium-9.5 Phos-3.3 Mg-2.1
___ 06:11PM BLOOD Lactate-1.7
___ 06:11PM URINE Color-Straw Appear-Clear Sp ___
___ 06:11PM URINE Blood-SM* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 06:11PM URINE RBC-<1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 06:11PM URINE UCG-NEGATIVE

MICRO
=====

___ CULTURE-PENDING
___ CULTURE-FINAL {VIRIDANS STREPTOCOCCI}

___ 6:11 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      VIRIDANS STREPTOCOCCI.    >100,000 CFU/mL. 

___ CULTURE-FINAL

 
Brief Hospital Course:
___ with anxiety, HLD, and recent diagnosis of metastatic 
ovarian ca (to liver) during hospitalization at ___, sent to ___ 
by PCP after ___ notified her they wouldn't accept her insurance 
when she presented for outpatient follow-up. She was sent by her 
PCP to the ___, who was under the impression that she needed 
chemotherapy urgently. ___ oncology was contacted and set up 
expedited outpatient follow-up for her; with gyn-onc on ___ and 
medical oncology on ___. ___ records were obtained and placed 
in her chart. Case management verified that insurance should not 
be a barrier to her receiving care here. Once a safe oncologic 
plan was in place for her, she was discharged home.

TRANSITIONAL ISSUES:
====================
- Patient with >100k Viridans streptococci in urine; however, no 
urinary symptoms whatsoever. This most likely represents 
asymptomatic bacteriuria and was not treated. If she develops 
fever or dysuria, consider treating this in the future. 

___ is clinically stable for discharge today.  On the day 
of discharge, greater than 30 minutes were spent in the 
planning, coordination, and communication of the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN Pain - 
Moderate 
2. Citalopram 10 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Naproxen 500 mg PO Q12H:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line  
3.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth daily 
Disp #*30 Packet Refills:*3 
4.  Atorvastatin 20 mg PO QPM  
5.  Citalopram 10 mg PO DAILY  
6.  Naproxen 500 mg PO Q12H:PRN Pain - Mild 
RX *naproxen 500 mg 1 tablet(s) by mouth every 12 hours Disp 
#*60 Tablet Refills:*3 
7.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 0.5 (One half) capsule(s) by mouth every 4 
hours Disp #*30 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Metastatic ovarian cancer
Secondary: Anxiety, hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was our pleasure caring for you at ___ 
___.  You were admitted to the hospital after being 
diagnosed with metastatic ovarian cancer at ___.  Unfortunately, 
because they were not able to accept your insurance, you could 
not follow-up with the oncologists at ___ for treatment.  In 
discussion with our oncologists here, we set you up with rapid 
outpatient follow-up with a gynecologogic oncologist and a 
medical oncologist at ___.  Once we obtain all the information 
from your hospitalization at ___, you will be able to start 
chemotherapy here (our case managers verified that we can use 
your insurance).  Once a treatment plan was in place for you, 
you were discharged home.  

Thank you for allowing us to participate in your care.  
 
Followup Instructions:
___